Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
convulsive episode
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old right-handed woman with PMH of
Down's Syndrome with dementia and need for assistance in all
activities of daily living, hearing difficulty, and
hypothyroidism who has been brought to the hospital after
witnessed convulsion with concern for first-time seizure. 

Ms. ___ cannot provide a history so Ms. ___, her
group home director, provides history, but is able to only
provide limited history as she did not witness event. 

Ms. ___ was at her day program this morning and ambulating
with her walker.  Mrs. ___ fell to the ground, the behavior
before the fall and actual fall was not witnessed, and hit the
left side of her head on the floor. Ms. ___ then had full
body tensing and convulsion for about two minutes.  Ms. ___
afterwards was unresponsive/minimally interactive for about six
minutes.  Ms. ___ was found to be incontinent of urine. 

Ms. ___ has no seizure history and there is no concern at 
her
group home that she has signs of infection (no increase in
urination frequency or expressed pain with urination).  Ms.
___, however, does go to visit her sister on the weekends 
and
there was concern for some abnormal movements recently.  Ms.
___ was evaluated at a hospital for the abnormal movements
and the thought was that she was having myoclonic jerks.  Ms.
___ was started on clonazepam at bedtime for these abnormal
movements.  

Ms. ___ has ___ supervision.  Ms. ___ communicates with
one word answers.  She cannot hold a conversation.  Ms. ___
can walk unassisted for short distances, but when outside
utilizes a walker. Ms. ___ needs full assistance with all
dailies of activities of daily living.  She is incontinent of
urine and stool. 
 
Past Medical History:
Down's Syndrome with dementia and need for assistance in all
activities of daily living
Hearing difficulty with hearing aides 
Hypothyroidism

 
Social History:
___
Family History:
No known neurologic family history
 
Physical Exam:
Admission Physical Exam

Presentation vitals: 
Temperature: 97.6 
Pulse: 120 
Blood pressure: 150/68 
Respiratory rate: 18 
Oxygen saturation: 95% RA

General examiantion: 
General: Comfortable and in no distress 
Head: Right eye cloudy (chronic per caretaker) 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: She has fresh left facial cuts and bruises 

Mental status: 
Patient is awake and regards me on both sides.   She smiles at 
me
and says hello.  Patient says that her name is ___, 
but
when I ask where she is at she points down and states "here". 
Patient says "yes" when month of the year is asked.  Patient
points to her eye, instead of closing eyes when asked.  Patient
does not stick out tongue to command, but will copy me when I
stick out my tongue. No glabellar reflex, but prominent grasp
reflexes. 

Cranial nerves: 
Patient's left pupil is larger than right by about one
millimeter, but both are briskly reactive to light.  Patient's
right eye is esophoric, but with both eyes she can bury her
sclera on lateral gaze.  Patient's face appears symmetric, but
she is in a hard cervical collar.  Patient has a thick 
dysarthric
voice which I am told is her baseline.  Patient can stick her
tongue out to midline.    

Motor: 
Patient with significant paratonia in the arms prohibiting
assessment of tone, but the tone in her legs is normal.  Patient
is able to copy my movements and there is no evidence of 
pronator
drift or orbiting.  Patient can push me away with her arms 
flexed
at 45 degree angle with equal strength.  Patient will not move
her legs to commands and when I lift them up there is a slow
drift downwards.  I pinched both of her toes and she had strong
forceful withdrawal that was symmetric. 

Sensory: 
Patient withdrawals to gentle pinching of her toes. 

Reflexes: 
Patient has normal symmetric reflexes.  I cannot reliably assess
plantar reflex given strong withdrawal.

Discharge Physical Exam
VITALS:
24 HR Data (last updated ___ @ 1139)
    Temperature: 98.0, Blood Pressure: 92/60, Heart rate: 79, 
Respiratory rate: 18, Oxygen saturation: 96%, O2 delivery: Ra
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, regarding examiner on both sides,
smiles pleasantly, says hello, says her name correctly. does not
completely answer all questions or follow all instructions, but
does better with mimicking or with repeated encouragement. 
groggy
as she did not sleep much overnight. prominent dysarthria, which
is baseline as per group home attendant. has a prominent black
eye on the left side stemming from the fall that led to her
presentation to the hospital.

-Cranial Nerves:
 II, III, IV, VI:  PERRL and brisk, left pupil is slightly 
larger
than right pupil. EOMI without nystagmus. Normal saccades. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to conversation
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. There is paratonia
throughout. No pronator drift bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted. Formal confrontation testing was limited but patient was
moving all 4 extremities at least antigravity symmetrically.

-Sensory: No deficits to light touch. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was extensor bilaterally.

-Coordination: could not assess, no apparent ataxia while laying
in bed

-Gait: deferred for safety
 
Pertinent Results:
MRI-B ___ - Limited study due to motion artifact.
Mild atrophy.
Otherwise normal study.

CTH ___
  
1. Soft tissue and in the left inferior frontal scalp, left 
periorbital
region, and prezygomatic facial soft tissues anterolateral to 
the left orbit. 
Globes intact without retrobulbar hematoma.  No acute fracture.
2. No acute intracranial abnormalities.

CT C spine ___. No acute cervical spine fracture.  No prevertebral soft 
tissue swelling.
2. Mild cervical spondylosis.  Mild C3 on C4 and C5 on C6 
anterolisthesis,
likely degenerative in etiology.

___ 04:55PM URINE  HOURS-RANDOM
___ 04:55PM URINE  UHOLD-HOLD
___ 04:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:55PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:58PM   LACTATE-1.4
___ 11:03AM   LACTATE-5.0*
___ 10:00AM   GLUCOSE-94 UREA N-25* CREAT-1.1 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-22 ANION GAP-17
___ 10:00AM   estGFR-Using this
___ 10:00AM   ALT(SGPT)-18 AST(SGOT)-28 ALK PHOS-84
___ 10:00AM   cTropnT-<0.01
___ 10:00AM   ALBUMIN-3.6 CALCIUM-8.8 PHOSPHATE-2.4* 
MAGNESIUM-2.1
___ 10:00AM   TSH-5.0*
___ 10:00AM   ETHANOL-NEG ACETMNPHN-NEG
___ 10:00AM   WBC-3.1* RBC-4.45 HGB-15.3 HCT-46.5* MCV-105* 
MCH-34.4* MCHC-32.9 RDW-15.0 RDWSD-57.9*
___ 10:00AM   NEUTS-47.3 ___ MONOS-10.5 EOS-1.0 
BASOS-1.9* AbsNeut-1.48* AbsLymp-1.23 AbsMono-0.33 AbsEos-0.03* 
AbsBaso-0.06
___ 10:00AM   PLT COUNT-155
___ 10:00AM   ___ PTT-28.6 ___ is a ___ year-old right-handed woman with past 
medical history of Down's Syndrome with dementia and need for 
assistance in all activities of daily living, hearing 
difficulty, and hypothyroidism who was brought to the hospital 
after witnessed convulsion with concern for first-time seizure. 

Patient experienced a generalized convulsion while at her group 
home, and experienced tongue bite and incontinence. She was 
sleepy for a short period of time, and then returned to her 
neurological baseline. Unclear whether she fell first and then 
had the seizure or whether the seizure made her fall. She had an 
infectious workup which was negative, though urine culture was 
pending at time of discharge. She was admitted to the hospital 
for workup, as coordinating workup as an outpatient would be 
challenging. An extended routine EEG showed sharp discharges 
from the bilateral frontal leads that may be epileptiform in 
nature. MRI brain did not show an acute infarct or mass lesion. 
There was generalized atrophy noted. The scan was not performed 
with contrast, as patient would have needed sedation and was 
thought to be at risk for cord dysfunction (atlantoaxial 
instability in Down syndrome) with intubation so risk outweighed 
benefit. 

She was started on Keppra 500mg BID given her overall risk 
profile, which she tolerated well during her hospitalization. 
___ was very affected by the Ativan that was given to her for 
MRI, and when she worked with ___ ___ she was still unsteady on 
her feet. She was re-evaluated on ___ and at that time 
determined to be at her baseline and was discharged home with 
her sister. She will return to her group home over the next few 
days. Seizure precautions were discussed with her sister in 
detail and recommendations for procedure if another seizure were 
to occur detailed above.

# Hypothyroidism
She had hypothyroidism listed as a problem in her chart, though 
the dose of her levothyroxine was not listed. TSH was checked, 
her TSH 5.0 and we started levothyroxine 50mcd QD. TSH should be 
repeated and as an outpatient and levothyroxine dose adjusted by 
PCP.  

# Chronic Blepharitis
Continue Doxycycline 100mg PO QD

# Mood disorder 
Continue home meds Buspirone 10 PO TID, Clonazepam 0.25 qhs

# Athletes foot
- terbinafine

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxycycline Hyclate 100 mg PO DAILY 
2. BusPIRone 10 mg PO TID 
3. Calcium Carbonate 500 mg PO DAILY 
4. Loratadine 10 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
7. ClonazePAM 0.25 mg PO QHS 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO Q12H 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 
2.  Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine 50 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
3.  BusPIRone 10 mg PO TID  
4.  Calcium Carbonate 500 mg PO DAILY  
5.  ClonazePAM 0.25 mg PO QHS  
6.  Docusate Sodium 100 mg PO BID  
7.  Doxycycline Hyclate 100 mg PO DAILY  
8.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
9.  Loratadine 10 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 
You were hospitalized at ___ 
because you had a seizure. Fortunately, this seizure was short 
and resolved on its own. You did not have any further seizures 
while you were here. We did an EEG, which did not show seizure 
but did show some abnormal electrical activity that may suggest 
you are at higher risk for further seizure. We did an MRI of 
your brain which showed atrophy, but no stroke or mass that 
would cause a seizure. We started you on a low dose of an 
anti-seizure medication called Keppra, which you should take two 
times per day. This dose may need to be increased as an 
outpatient. You tolerated this medication without any adverse 
effects. You worked with ___, who wanted to observe you 
overnight, and you worked with them again on ___ and they 
cleared you to go home and continue your normal activities. 

In terms of precautions, people with seizures should avoid 
swimming or bathing alone. You cannot drive for 6 months after a 
seizure per ___ law, though as you do not drive this is not 
an issue for you. 

If you experience another seizure, you should be helped to the 
ground and laid on your side, and objects around you that you 
may injure yourself on should be removed. Nothing should be put 
in your mouth. The seizure should be timed, and if it lasts for 
more than 5 minutes, 911 should be called. Most seizures will 
resolve spontaneously in under 5 minutes. Afterwards, you will 
likely be sleepy, and this is called a "post-ictal state". This 
usually lasts for ___ minutes. If you are sleepy or off your 
baseline for longer than this, you should come to the emergency 
room for evaluation. 

Things that can trigger seizures are infections, sleep 
deprivation, and certain medications. Consult your physician 
before starting new medications. The Klonopin you are currently 
taking at night is OK to continue. 

It was a pleasure taking care of you and we wish you the best!

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___